US04623661
4-biphenyl hydroxamic acid
Using the procedure of Example 1 part (b), but using 4-biphenyl carboxylic acid and hydroxylamine hydrochloride the desired compound was obtained.

reactant | 4-biphenyl carboxylic acid | C1(=CC=C(C=C1)C(=O)O)C1=CC=CC=C1 | C13H10O2
reactant | hydroxylamine hydrochloride | Cl.NO
product | 4-biphenyl hydroxamic acid | C1(=CC=C(C=C1)C(=O)NO)C1=CC=CC=C1 | C13H11NO2
